US06235851B1
An autocrave was charged with 10 ml of methanol were added 10 mmol of the 1-nitro-3-adamantanol obtained by the method of Preparation Example 4, 5% Pd-C (10 mol % as Pd, relative to a substrate) and 1 ml of hydrochloric acid, and the mixture was stirred in a hydrogen atmosphere at a temperature of 80° C. for 2 hours. And, as a result, the 1-nitro-3-adamantanol was converted into a 1-amino-3-adamantanol (yield:95%) with a conversion of 99%.

reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | 1-nitro-3-adamantanol | [N+](=O)([O-])C12CC3(CC(CC(C1)C3)C2)O | C10H15NO3
product | 1-amino-3-adamantanol | yield:95% | NC12CC3(CC(CC(C1)C3)C2)O | C10H17NO
